US07427613B2
Cyclopropyl-(2-o-tolylethyl)amine
Synthesized according to typical procedures C and D from o-tolylacetic acid and cyclopropylamine.

reactant | o-tolylacetic acid | C1(=C(C=CC=C1)CC(=O)O)C | C9H10O2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(2-o-tolylethyl)amine | C1(CC1)NCCC1=C(C=CC=C1)C | C12H17N
